US07405063B2
Bioconversion of 1,2-hexadecanediol
The bioconversion of 1,2-hexadecanediol was tested following the procedures set forth in Example 24. This substrate was tested to demonstrate the ability to form a (ω,ω-1)-dihydroxy fatty acid. Recovery was 0.138 g from 0.253 g starting material (54.5% recovery). NMR shows the 1,2-diol to be unchanged, as expected from olefin studies. But, interestingly, CH3 oxidation to the 15,16-dihydroxyhexadecanoic acid was lower than seen with octadecene, because the starting material was solid. Conversion was only about 30%. Some fatty unsaturation and minor polypropylene glycol were also seen. Since the NMR results were fairly convincing, no GC/MS analysis was performed.

reactant | 15,16-dihydroxyhexadecanoic acid | OC(CCCCCCCCCCCCCC(=O)O)CO | C16H32O4
reactant | octadecene | C=CCCCCCCCCCCCCCCCC | C18H36
product | 1,2-hexadecanediol | C(C(CCCCCCCCCCCCCC)O)O | C16H34O2
